US07893042B2
To a solution containing 2.0 g (11.4 mmol) of Nα-Boc-glycine in 25 mL of EtOAc was added 1.73 g (2.38 mL, 17.1 mmol) of triethylamine followed by 2.05 g (1.19 mL, 17.1 mmol) of bromoacetonitrile. The reaction mixture was stirred at 60° C. under an argon atmosphere for 16 h. The heterogeneous mixture was cooled to room temperature and filtered through a short pad of silica, washing with EtOAc to remove the precipitated triethylamine hydrobromide. The filtrate was concentrated under diminished pressure to give Nα-Boc-glycine cyanomethyl ester as a colorless syrup which solidified upon standing. The crude product was used directly in the next step without further purification: yield 2.12 g (87%); 1HNMR (500 MHz, CDCl3) δ 1.45 (s, 9H), 4.05 (d, 2H, J=5.5 Hz) and 4.79 (s, 2H).

reactant | Nα-Boc-glycine | 11.4 mmol, 2.0 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | triethylamine | 17.1 mmol, 2.38 mL, 1.73 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetonitrile | 17.1 mmol, 1.19 mL, 2.05 g | BrCC#N | C2H2BrN
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | Nα-Boc-glycine cyanomethyl ester | C(#N)COC(CNC(=O)OC(C)(C)C)=O | C9H14N2O4
